US04010279
2-Methyl-2-{4-[2(2-methoxy-5-chloro-benzamido)-ethyl]-biphenyl-4'-oxy}-propanol
3.5 gm (7 millimols) of ethyl 2-methyl-2-{4-[2-(2-methoxy-5-chloro-benzamido)-ethyl]-biphenyl-4'-oxy}-propionate were reduced in 30 ml of absolute ether with 0.27 gm (7 millimols) of lithium aluminum hydride. After careful addition of 8 ml of water, the mixture was filtered, the filter cake was washed first with ether and then with chloroform, the ether phase and the chloroform phase were combined with the filrate and dried over sodium sulfate. After distilling off the solvents, the residual oil was crystallized from a small quantity of ether. Yield: 1.2 gm (38% of theory); m.p. 115° C.

reactant | ethyl 2-methyl-2-{4-[2-(2-methoxy-5-chloro-benzamido)-ethyl]-biphenyl-4'-oxy}-propionate | 7 millimols, 3.5 gm | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C28H30ClNO5
reactant | lithium aluminum hydride | 7 millimols, 0.27 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 8 ml | O | H2O
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-Methyl-2-{4-[2(2-methoxy-5-chloro-benzamido)-ethyl]-biphenyl-4'-oxy}-propanol | CC(CO)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C26H28ClNO4
